US04727080
Preparation of ethyl 6-fluoro-7-(pyrrol-1-yl)-1-propyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (step D)
A mixture of 3 g (0.01 mol) of ethyl 6-fluoro-7-(pyrrol-1-yl)-4-hydroxyquinoline-3-carboxylate, 2.8 g (0.02 mol) of potassium carbonate and 6 g (0.04 mol) of n-propyl bromide is heated for 5 hours at 80°-90° C. and left to cool, water is added and the precipitate formed is filtered off, washed with water and recrystallized from ethanol to give 2.4 g of a solid melting at 128°-130° C.

reactant | ethyl 6-fluoro-7-(pyrrol-1-yl)-4-hydroxyquinoline-3-carboxylate | 0.01 mol, 3 g | FC=1C=C2C(=C(C=NC2=CC1N1C=CC=C1)C(=O)OCC)O | C16H13FN2O3
reactant | potassium carbonate | 0.02 mol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl bromide | 0.04 mol, 6 g | CCCBr | C3H7Br
solvent | water | O | H2O
product | ethyl 6-fluoro-7-(pyrrol-1-yl)-1-propyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.4 g | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)CCC)C(=O)OCC)=O | C19H19FN2O3
